US04192944
Preparation 8: Ethyl 2-Cyano-3-(5-n-butyl-2-pyridylamino)acrylate
A solution of 2-amino-5-n-butylpyridine (3.72 g., 23.43 mmoles) and ethyl ethoxymethylenecyanoacetate (3.96 g., 23.43 mmoles) in toluene was heated for 10 minutes by means of an oil bath maintained at 100°. The solution was cooled and treated with Skellysolve B (200 ml.). The mixture was triturated for 18 hours at room temperature and then filtered. The collected title compound (4.3 g., 67.2%) had m.p. 69°-73°.

reactant | 2-amino-5-n-butylpyridine | 23.43 mmoles, 3.72 g | NC1=NC=C(C=C1)CCCC | C9H14N2
reactant | ethyl ethoxymethylenecyanoacetate | 23.43 mmoles, 3.96 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
reactant | Skellysolve B | 200 ml | CCCCCC | C6H14
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-Cyano-3-(5-n-butyl-2-pyridylamino)acrylate | C(#N)C(C(=O)OCC)=CNC1=NC=C(C=C1)CCCC | C15H19N3O2
